US05736550
5-Cyano-6-[4-(p-fluorobenzyl)-2-morpholinylmethylamino]-1,3-dimethyl-2-thioxo-2,3-dihydro-4(1H)-pyrimidinone
To a solution of ethyl 3-[4-(p-fluorobenzyl)-2-morpholinylmethylamino]-3-methylamino-2-cyanoacrylate (1.00 g, 2.66 mmol) in DMF (10 ml) was added under ice-cooling sodium hydride (0.11 g, 2.66 mmol) and the mixture was stirred for one hour. To the reaction mixture was added dropwise a solution of methyl isothiocyanate (0.19 g, 2.66 mmol) in DMF (1 ml) and the mixture was stirred under ice-cooling for 8.5 hours. Then, the reaction mixture was poured into water (30 ml) and extracted with chloroform (50 ml×4). The organic layer was washed with a saturated aqueous solution of sodium chloride, dried over sodium sulfate, concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give the title compound from the fraction from ethyl acetate. Yield=90%.

reactant | ethyl 3-[4-(p-fluorobenzyl)-2-morpholinylmethylamino]-3-methylamino-2-cyanoacrylate | 2.66 mmol, 1.00 g | FC1=CC=C(CN2CC(OCC2)CNC(=C(C(=O)OCC)C#N)NC)C=C1 | C19H25FN4O3
reactant | sodium hydride | 2.66 mmol, 0.11 g | [H-].[Na+]
reactant | methyl isothiocyanate | 2.66 mmol, 0.19 g | CN=C=S | C2H3NS
reactant | water | 30 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 5-Cyano-6-[4-(p-fluorobenzyl)-2-morpholinylmethylamino]-1,3-dimethyl-2-thioxo-2,3-dihydro-4(1H)-pyrimidinone | Yield=90% | C(#N)C=1C(N(C(N(C1NCC1CN(CCO1)CC1=CC=C(C=C1)F)C)=S)C)=O | C19H22FN5O2S
